US06716851B2
4-(2,5-Dimethyl-4-hydroxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4-amino-2,5-dimethylphenol (40 mg, 0.290 mmol) similar to Example 117 and isolated as an orange solid (35 mg, 47%). 1H NMR (CDCl3): 8.79-8.77 (m, 1H), 8.58 (d, J=7.8 Hz, 1H), 8.14 (bs, 1H), 7.91-7.86 (m, 1H), 7.46-7.42 (m, 1H), 7.09 (bs, 1H), 6.92 (s, 1H), 6.83 (s, 1H), 6.46 (s, 1H), 2.22 (s, 3H), 2.02 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 4-amino-2,5-dimethylphenol | 0.290 mmol, 40 mg | NC1=CC(=C(C=C1C)O)C | C8H11NO
product | 4-(2,5-Dimethyl-4-hydroxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C(C(=C1)O)C | InChI=1S/C18H15F3N4O.ClH/c1-10-8-14(26)11(2)7-13(10)23-16-9-15(18(19,20)21)24-17(25-16)12-5-3-4-6-22-12;/h3-9,26H,1-2H3,(H,23,24,25);1H
